US09359362B2
1-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}-3-methylurea
Under an atmosphere of argon protective gas, (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile (13 mg, 28 μmol) was initially charged in abs. dichloromethane (2 ml). At −78° C., 4-nitrophenyl chloroformate (28.6 mg, 142 μmol, 5 eq.), triethylamine (14.7 mg, 145 μmol, 5.1 eq.) and DMAP (3.5 mg, 28 μmol) were added. After 2 h of stirring at −78° C., the reaction mixture was allowed to thaw initially to −20° C. (2 h) and then to 0° C. (2 h). The mixture was then once more cooled to −78° C., and a 2 M solution of methylamine in THF (102 μl, 7.2 eq.) was added. The mixture was then warmed to −10° C. and stirred overnight. A 2 M solution of methylamine in THF (1 ml) was then added, the reaction mixture was concentrated under reduced pressure and the residue was purified by preparative HPLC (Reprosil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (5.9 mg, 43% of theory).

reactant | (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | 28 μmol, 13 mg | NC1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1 | C21H14F3N7
reactant | 4-nitrophenyl chloroformate | 142 μmol, 28.6 mg, 5 eq. | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | triethylamine | 145 μmol, 14.7 mg, 5.1 eq. | C(C)N(CC)CC | C6H15N
reactant | methylamine | CN | CH5N
catalyst | DMAP | 28 μmol, 3.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 102 μl, 7.2 eq. | C1CCOC1 | C4H8O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}-3-methylurea | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NC(=O)NC)C2=CC(=CC=C2)C(F)(F)F)C | C23H17F3N8O
